US04587236
Under the conditions of Example 2c, 1.9 g of 17-benzoyloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted with propionic anhydride, worked up, and purified, thus obtaining 1.7 g of 17-benzoyloxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione, mp 241° C.

reactant | 17-benzoyloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.9 g | C(C1=CC=CC=C1)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C29H34O6
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 17-benzoyloxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione | 1.7 g | C(C1=CC=CC=C1)(=O)O[C@]1(C(COC(CC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C32H38O7
